US04496551
Preparation of (1,1-'Biphenyl-4-yl)(1H-imidazol-1-ylmethyl)(methoxy)methylsilane
A mixture of (1,1'-biphenyl-4-yl)chloro(chloromethyl)methylsilane and two equivalents of imidazole sodium salt in dimethylformamide is warmed to 80°-90° C. for 2 hours. Ten equivalents of methanol is then added, and the mixture is held at 70° for 1 hour, cooled, diluted with water, and quickly extracted with ether. Washing the ether solution with water and brine, drying over magnesium sulfate, and evaporation leaves the title compound.

reactant | (1,1'-biphenyl-4-yl)chloro(chloromethyl)methylsilane | C1(=CC=C(C=C1)[Si](C)(CCl)Cl)C1=CC=CC=C1 | C14H14Cl2Si
reactant | imidazole sodium salt | two equivalents | [Na].N1C=NC=C1
reactant | methanol | Ten equivalents | CO | CH4O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (1,1-'Biphenyl-4-yl)(1H-imidazol-1-ylmethyl)(methoxy)methylsilane | C1(=CC=C(C=C1)[SiH](COC)CN1C=NC=C1)C1=CC=CC=C1 | C18H20N2OSi
